US04604390
1-Chloro-7-hydroxy-4-nitro-9H-thioxanthen-9-one
A mixture of 25 g of 1-chloro-7-methoxy-4-nitro-9H-thioxanthen-9-one, 32.1 g of anhydrous aluminum chloride, and 300 ml of 1,2-dichloroethane is heated under reflux for 1.5 hours. The mixture is concentrated, then treated with 640 ml of concentrated HCl. After 1 hour, the slurry is filtered, and then washed with 500 ml of water followed by 300 ml of 2-propanol, to afford the title compound as a gold solid, mp>300° C.

reactant | 1-chloro-7-methoxy-4-nitro-9H-thioxanthen-9-one | 25 g | ClC1=CC=C(C=2SC3=CC=C(C=C3C(C12)=O)OC)[N+](=O)[O-] | C14H8ClNO4S
reactant | aluminum chloride | 32.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
product | 1-Chloro-7-hydroxy-4-nitro-9H-thioxanthen-9-one | ClC1=CC=C(C=2SC3=CC=C(C=C3C(C12)=O)O)[N+](=O)[O-] | C13H6ClNO4S
